US06713471B1
2-[(6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole-5-yl]phenol
To a solution of (6bR,10aS)-5-(2-methoxyphenyl)-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole (20 mg, 0.06 mmol) in CH2Cl2 (4 mL) under N2 was added a 0.91 M solution of BBr3 in CH2Cl2 (0.41 mL, 0.37 mmol). The reaction mixture was stirred at 20° C. for 16 h, and then quenched with water (1 mL). The aqueous layer was basified with 1 N NaOH to pH 7, and the reaction mixture was extracted with CH2Cl2 (3×30 mL). The organic solution was then dried over MgSO4 and concentrated in vacuo to afford the title compound as a yellow oil (10 mg, 50%). 1H NMR (CDCl3) δ1.88-2.01 (m, 2H), 2.10-2.22 (m, 1H), 2.60-2.79 (m, 2H), 2.90-2.99 (m, 1H), 3.18-3.37 (m, 3H), 3.36-3.43 (m, 2H), 3.61-3.66 (m, 1H), 4.39-4.44 (m, 2H), 6.70-6.79 (m, 1H), 6.80-6.99 (m, 2H), 7.08-7.18 (m, 2H) ppm.

reactant | (6bR,10aS)-5-(2-methoxyphenyl)-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole | 0.06 mmol, 20 mg | COC1=C(C=CC=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)OCC4)CCNC3 | C20H22N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.37 mmol, 0.41 mL | C(Cl)Cl | CH2Cl2
product | 2-[(6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indole-5-yl]phenol | 10 mg, 50% | C1COC=2C=C(C=C3[C@H]4[C@@H](N1C23)CCNC4)C4=C(C=CC=C4)O | C19H20N2O2
